US07488844B2
(ii) (2S)-3-[4-(2-{bis[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxy-propanoic acid
To a solution of ethyl(2S)-3-[4-(2-{bis[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxypropanoate (0.662 g, 1.1 mmol) in acetonitrile (54 mL) was added aqueous 0.10 M LiOH (27 mL) and the solution was stirred at room temperature overnight. The solvent volume was reduced in vacuo and the remaining aqueous phase was diluted with water and aqueous 0.10 M LiOH (to a total volume of 300 mL, pH˜12) and washed with diethyl ether (2×100 mL). (The extraction process was complicated by the formation of emulsions.) The aqueous phase was acidified with 2 M HCl and extracted with ethyl acetate (3×100 mL). The combined organic phase was washed with brine (100 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.292 g (46%) of a colourless oil.

reactant | ethyl(2S)-3-[4-(2-{bis[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxypropanoate | 1.1 mmol, 0.662 g | FC(C1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CC2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C31H31F6NO5
solvent | acetonitrile | 54 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | LiOH | 0.10 M | [Li+].[OH-]
solvent | LiOH | 0.10 M, 27 mL | [Li+].[OH-]
product | (2S)-3-[4-(2-{bis[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxy-propanoic acid | 0.292 g, 46% | FC(C1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)O)OCC)=O)CC2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C29H27F6NO5
